US06255494B1
Preparation of (RS) 2-(4-chlorophenoxymethyl)-4-[2-[1-(t-butoxycarbonyl)piperidin-3-yl]ethoxy]-1-[3-[1-(t-butoxycarbonyl)piperidin-3-yl]propyl]-benzimidazole
A solution of (RS) 2-(4-chlorophenoxymethyl)-4-hydroxy-1-[3-[1-(t-butoxycarbonyl)piperidin-3-yl]propyl]benzimidazole (75 mg, 0.15 mmol, 1.0 eq) in dry N,N-dimethylformamide (1.0 ml) was treated with sodium hydride (60% in oil, 7.5 mg, 0.18 mmol, 1.20 eq). The resulting mixture was stirred at room temperature for thirty minutes, after which time 2-[1-(t-butoxycarbonyl)piperidin-3-yl]ethyl bromide (0.18 mmol, 1.2 eq) was added. The resulting mixture was stirred for three hours at 70° C. The reaction was quenched by the addition of water (10 ml). The aqueous fraction was extracted with diethyl ether (3×10 ml). The organic fractions were combined, washed with water (2×10 ml), then brine (1×10 ml), and then dried over sodium sulfate. The solvents were removed in vacuo to give a crude product. The title product was further purified by flash chromatography to provide a crystalline product. Yield: 92%

reactant | (RS) 2-(4-chlorophenoxymethyl)-4-hydroxy-1-[3-[1-(t-butoxycarbonyl)piperidin-3-yl]propyl]benzimidazole | 0.15 mmol, 75 mg, 1.0 eq | ClC1=CC=C(OCC2=NC3=C(N2CCCC2CN(CCC2)C(=O)OC(C)(C)C)C=CC=C3O)C=C1 | C27H34ClN3O4
reactant | sodium hydride | 0.18 mmol, 7.5 mg, 1.20 eq | [H-].[Na+]
reactant | 2-[1-(t-butoxycarbonyl)piperidin-3-yl]ethyl bromide | 0.18 mmol, 1.2 eq | C(C)(C)(C)OC(=O)N1CC(CCC1)CCBr | C12H22BrNO2
solvent | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
product | (RS) 2-(4-chlorophenoxymethyl)-4-[2-[1-(t-butoxycarbonyl)piperidin-3-yl]ethoxy]-1-[3-[1-(t-butoxycarbonyl)piperidin-3-yl]propyl]-benzimidazole | Yield: 92% | ClC1=CC=C(OCC2=NC3=C(N2CCCC2CN(CCC2)C(=O)OC(C)(C)C)C=CC=C3OCCC3CN(CCC3)C(=O)OC(C)(C)C)C=C1 | C39H55ClN4O6
